US04160099
1-THIOACETYLOXYMETHYL-3-METHYLIMIDAZOLIUM CHLORIDE
To 0.7 g (8.52 millimoles) of 1-methylimidazole was added slowly and with cooling, 1.5 g of (16.2 millimoles) chloromethylthioacetate. The solution solidified in 10 minutes and was left stoppered at room temperature overnight.

reactant | 1-methylimidazole | 8.52 millimoles, 0.7 g | CN1C=NC=C1 | C4H6N2
reactant | chloromethylthioacetate | 16.2 millimoles, 1.5 g | ClCOC(C)=S | C3H5ClOS
product | 1-THIOACETYLOXYMETHYL-3-METHYLIMIDAZOLIUM CHLORIDE | [Cl-].C(C)(=S)OC[N+]1=CN(C=C1)C | InChI=1S/C7H11N2OS.ClH/c1-7(11)10-6-9-4-3-8(2)5-9;/h3-5H,6H2,1-2H3;1H/q+1;/p-1
